datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)N1CCCC1C(=O)[O-:10].CN(C)C(=S)SCC(=O)[O:21][H:20]>>CC(=O)N1CCCC1C(=O)[O:10][H:20].CN(C)C(=S)SCC(=O)[O-:21] 10=20;20,21=21",
"CC[N+:21](CC)(c1ccc(C)cc1)[H:20].O=[N+]([O-])c1cc(Br)ccc1[O-:10]>>CC[N:21](CC)c1ccc(C)cc1.O=[N+]([O-])c1cc(Br)ccc1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C)c2c(O)c(CC(=O)[O:21][H:20])oc2c1.Cc1ccc(O)cc1C(=O)[O-:10]>>Cc1cc(C)c2c(O)c(CC(=O)[O-:21])oc2c1.Cc1ccc(O)cc1C(=O)[O:10][H:20] 10=20;20,21=21",
"COc1c(C)cc2c(c1C(=O)[O:21][H:20])COC2.SCC[NH:10]CCc1ccccc1>>COc1c(C)cc2c(c1C(=O)[O-:21])COC2.SCC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"CC(=O)c1ccc([N-:10]N=C(C#N)C#N)cc1.CC(C)C(O)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1>>CC(=O)c1ccc([N:10](N=C(C#N)C#N)[H:20])cc1.CC(C)C(O)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1 10=20;20,21=21",
"C=Cc1ccc([O:21][H:20])cc1.NC(=O)[N-:10]S(=O)(=O)c1ccc(N)cc1>>C=Cc1ccc([O-:21])cc1.NC(=O)[N:10](S(=O)(=O)c1ccc(N)cc1)[H:20] 10=20;20,21=21",
"Cc1ccc(-c2oc(-c3ccccc3)c[n:10]2)cc1.NC(=O)c1ccccc1C(=O)[O:21][H:20]>>Cc1ccc(-c2oc(-c3ccccc3)c[n+:10]2[H:20])cc1.NC(=O)c1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"CCCC(=O)O[O-:10].Cc1cc(-c2ccc([NH2+:21][H:20])c(C)c2)ccc1[NH3+]>>CCCC(=O)O[O:10][H:20].Cc1cc(-c2ccc([NH2:21])c(C)c2)ccc1[NH3+] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CN(CC[NH+](C)C)CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CN(CC[NH+](C)C)CC[NH2+:10][H:20] 10=20;20,21=21",
"CCNc1nc(N)[n+:21]([H:20])c(NCC)n1.c1ccc2c(c1)ccc1c2ccc[n:10]1>>CCNc1nc(N)[n:21]c(NCC)n1.c1ccc2c(c1)ccc1c2ccc[n+:10]1[H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n-:10]1.Cc1cc([N+](=O)[O-])ccc1[N:21](N=C(C#N)C#N)[H:20]>>COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n:10]1[H:20].Cc1cc([N+](=O)[O-])ccc1[N-:21]N=C(C#N)C#N 10=20;20,21=21",
"N[n+]1ccccc1[O:21][H:20].c1ccc2c(c1)C[NH2+]CCC[NH:10]Cc1ccccc1OCCCO2>>N[n+]1ccccc1[O-:21].c1ccc2c(c1)C[NH2+]CCC[NH+:10]([H:20])Cc1ccccc1OCCCO2 10=20;20,21=21",
"C[C@@H]1C[C@@H]([C@H](O)CC2CC(=O)[N-:10]C(=O)C2)C(=O)[C@@H](C)C1.OCC[NH+:21](C1CC[NH+](Cc2ccccc2)CC1)[H:20]>>C[C@@H]1C[C@@H]([C@H](O)CC2CC(=O)[N:10]([H:20])C(=O)C2)C(=O)[C@@H](C)C1.OCC[NH:21]C1CC[NH+](Cc2ccccc2)CC1 10=20;20,21=21",
"CC(CC(O)(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCCCC1.C[N+](C)(C)Cc1ccccc1[O-:10]>>CC(CC(O)(c1ccccc1)c1ccccc1)[N:21]1CCCCC1.C[N+](C)(C)Cc1ccccc1[O:10][H:20] 10=20;20,21=21",
"NC(=O)CCCc1cccc[n:10]1.c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n+:21]2[H:20])n1>>NC(=O)CCCc1cccc[n+:10]1[H:20].c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n:21]2)n1 10=20;20,21=21",
"COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.ClCC[O-:10]>>COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.ClCC[O:10][H:20] 10=20;20,21=21",
"CC(c1ccccc1)[OH+:21][H:20].CCc1ccc(OC)c(C(=O)NCC2CCC[N:10]2CC)c1[O-]>>CC(c1ccccc1)[OH:21].CCc1ccc(OC)c(C(=O)NCC2CCC[N+:10]2(CC)[H:20])c1[O-] 10=20;20,21=21",
"c1cc(-c2nc3ccccc3s2)cc([NH2+:21][H:20])c1.c1ccc([NH:10]C2CCCCC2)cc1>>c1cc(-c2nc3ccccc3s2)cc([NH2:21])c1.c1ccc([NH+:10](C2CCCCC2)[H:20])cc1 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH+:21]([H:20])C(C)(C)C1.CNC(=O)C1CCCC[NH:10]1>>CN(C)C1CC(C)(C)[NH:21]C(C)(C)C1.CNC(=O)C1CCCC[NH+:10]1[H:20] 10=20;20,21=21",
"C#CC[O-:10].O=C(c1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>C#CC[O:10][H:20].O=C(c1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"C[C@]1([NH2:10])C[C@@H]1N.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@]1([NH2+:10][H:20])C[C@@H]1N.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"COc1ccc(CO[NH2:10])cc1.NC(CC(N)=[N+:21](O)[H:20])=NO>>COc1ccc(CO[NH2+:10][H:20])cc1.NC(CC(N)=[N:21]O)=NO 10=20;20,21=21",
"Cc1cc[n+:21]([H:20])cn1.c1nc2c(c[n:10]1)NCCN2>>Cc1cc[n:21]cn1.c1nc2c(c[n+:10]1[H:20])NCCN2 10=20;20,21=21",
"CN(C)CCNCC[N:10](C)C.O=C([O-])c1cccc2ccc([O:21][H:20])cc12>>CN(C)CCNCC[N+:10](C)(C)[H:20].O=C([O-])c1cccc2ccc([O-:21])cc12 10=20;20,21=21",
"Cc1ccc([NH:10]c2ccccc2)cc1.Nc1ccc(Sc2ccc([NH2+:21][H:20])cc2)cc1>>Cc1ccc([NH+:10](c2ccccc2)[H:20])cc1.Nc1ccc(Sc2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"c1ccc(-c2nnnn2[NH2:10])cc1.c1ccc2c(c1)ccc[n+]2[O:21][H:20]>>c1ccc(-c2nnnn2[NH2+:10][H:20])cc1.c1ccc2c(c1)ccc[n+]2[O-:21] 10=20;20,21=21",
"CC[NH:10]C(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](C(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1ccc([O:21][H:20])c(CO)c1.O=C([O-])CCCCCC[NH2:10]>>Cc1ccc([O-:21])c(CO)c1.O=C([O-])CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(c1ccccc1)[NH2:10].CCNc1nc(NC(C)C)nc(Cl)[n+:21]1[H:20]>>CC(c1ccccc1)[NH2+:10][H:20].CCNc1nc(NC(C)C)nc(Cl)[n:21]1 10=20;20,21=21",
"C#CCC(=O)[O:21][H:20].CC(C)(CN)C[N:10](C)C>>C#CCC(=O)[O-:21].CC(C)(CN)C[N+:10](C)(C)[H:20] 10=20;20,21=21",
"C(C[NH2+]CCc1nnn[n:21]1[H:20])[NH2+]CCc1nnn[nH]1.c1cnc2c(c1)ccc1c2ccc[n:10]1>>C(C[NH2+]CCc1nnn[n-:21]1)[NH2+]CCc1nnn[nH]1.c1cnc2c(c1)ccc1c2ccc[n+:10]1[H:20] 10=20;20,21=21",
"CSc1ncnc2c1cn[n-:10]2.O=C(N[O:21][H:20])c1ccccc1>>CSc1ncnc2c1cn[n:10]2[H:20].O=C(N[O-:21])c1ccccc1 10=20;20,21=21",
